US07498337B2
tert-butyl({1-[(5-bromopyridin-3-yl)sulfonyl]-5-phenyl-1H-pyr-rol-3-yl}methyl)methylcarbamate
1-[(5-Bromopyridin-3-yl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde (1.18 g) was dissolved in absolute tetrahydrofuran (15 mL), a 2 mol/L solution (4.6 mL) of methylamine in tetrahydrofuran was added, and the mixture was stirred at room temperature for 16 hr. The reaction mixture was added to a solution of sodium borohydride (341 mg) in methanol (6 mL), and the mixture was stirred at the same temperature for 5 min. di-tert-Butyl bicarbonate (3.87 g) was added, and water (15 mL) and sodium hydrogencarbonate (1.26 g) were added 5 min later. The mixture was further stirred at room temperature for 30 min, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→1:1), and fractions showing Rf values of 0.63, 0.30 and 0.075 (eluent: hexane-ethyl acetate=3:1) by TLC analysis were collected and concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (30 mL), manganese dioxide (75% chemically treated product, 3.0 g) was added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was filtered through celite, and celite was washed with ethyl acetate. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→1:1) to give the title compound as a colorless oil (yield 733 mg, 48%).

reactant | 1-[(5-Bromopyridin-3-yl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde | 1.18 g | BrC=1C=C(C=NC1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)C=O | C16H11BrN2O3S
reactant | methylamine | CN | CH5N
reactant | sodium borohydride | 341 mg | [BH4-].[Na+]
reactant | sodium hydrogencarbonate | 1.26 g | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | methanol | 6 mL | CO | CH4O
solvent | water | O | H2O
solvent | water | 15 mL | O | H2O
product | tert-butyl({1-[(5-bromopyridin-3-yl)sulfonyl]-5-phenyl-1H-pyr-rol-3-yl}methyl)methylcarbamate | yield 733 mg, 48% | C(C)(C)(C)OC(N(C)CC1=CN(C(=C1)C1=CC=CC=C1)S(=O)(=O)C=1C=NC=C(C1)Br)=O | C22H24BrN3O4S
